US07166735B2
A 1-liter separable flask equipped with a nitrogen gas inlet, thermometer, Dimroth condenser and dropping funnel was charged with 310.0 g (2.0 mol) of 1,6-dichlorohexane and heated at 80° C. With stirring, the reaction product of 3-mercaptopropyltriethoxysilane with sodium ethylate was slowly added dropwise. After the completion of dropwise addition, the solution was continuously stirred at 80° C. for 5 hours, and then cooled. From the solution, the salt was filtered off and the ethanol and excess 1,6-dichlorohexane were distilled off in vacuum. The residual solution was subjected to vacuum distillation, collecting 64.2 g of a colorless clear liquid at a boiling point of 148–150° C./0.005 Torr. On analysis by IR, 1H-NMR and MS, the liquid was identified to be a compound of the following formula. (CH3CH2O)3Si(CH2)3S(CH2)6Cl Analysis by gas chromatography gave a purity of 98.7%.

reactant | 1,6-dichlorohexane | 2.0 mol, 310.0 g | ClCCCCCCCl | C6H12Cl2
reactant | 3-mercaptopropyltriethoxysilane | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | sodium ethylate | CC[O-].[Na+]
product | (CH3CH2O)3Si(CH2)3S(CH2)6Cl | [Si](OCC)(OCC)(OCC)CCCSCCCCCCCl | C15H33ClO3SSi
